US05998433
b) Synthesis of N-tert-butoxycarbonyl-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine
A solution of 0.512 g (1.425 mmol) of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carbaldehyde, 0.55 g (7.1 mmol) of 40% methylamine in methanol and 5 drops of acetic acid were dissolved in 30 ml of methanol, followed by stirring at room temperature for 0.5 hours. To this solution, 0.18 g (2.9 mmol) of sodium cyanoborohydride was added at room temperature, followed by stirring for 4.5 days. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 20 ml of dichloromethane; a solution of 0.47 g (2.1 mmol) of di-tert-butyl dicarbonate in 5 ml of dichloromethane was added. After stirring at room temperature for 1 hour, the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel flush column chromatography (hexane/ethyl acetate=3/1 to 2/1) to yield the desired product.

reactant | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carbaldehyde | 1.425 mmol, 0.512 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)C=O)C=C1 | C22H17NO4
reactant | methylamine | 7.1 mmol, 0.55 g | CN | CH5N
reactant | sodium cyanoborohydride | 2.9 mmol, 0.18 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.1 mmol, 0.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | CO | CH4O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | C(C)(C)(C)OC(=O)N(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C28H30N2O5
